Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dehydration

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a past medical 
history significant for hypertension and peripheral neuropathy, 
who presents after worsening diarrhea.  She has had several 
weeks of diarrhea. She was followed by Dr. ___ and Dr. 
___ as an outpatient for her diarrhea and has been treated in 
the past with budesonide. 
.
Over the last 5 weeks, she has noticed that her bowel movements 
have increased in frequency and volume. She reports having 
between ___ per day. Her stools are watery, nonbloody. She has 
becoming increasingly weak with the ongoing diarrhea and 
presented to her PCP's office today for further evaluation. 
During her office visit, her systolic blood pressure was in the 
___ and her heart rate was elevated into the 120s. She was 
transferred to the ED for further evaluation.
.  
In the ED, initial vitals were as follows: T: 97 BP: 116/54 HR: 
80   RR:18 SaO2 100%. In the ED, she had several episodes of SVT 
and had a short run of V Tach. She converted spontaneously into 
normal sinus rhythm. Labs and imaging significant for Mg 1.0 K+ 
3.6. Stool guaiac was negative. On EKG, she had ST depressions 
in V3-V4. She had a U/A that revealed WBC 13, mod leukocytes, 
and many bacteria. In the emergency department, she started ASA 
325mg. She received a dose of  ciprofloxacin 400mg IV for 
possible urinary tract infection. She received Magnesium 2gm  IV 
x 1 and Potassium 20mEq IV x 1. She received 2L of normal 
saline. 
.  
On arrival to the floor, her vital signs were as follows: BP: 
140/71 HR: 80 RR: 18 SaO2 95%. The patient denies any dizziness, 
chest pain, shortness of breath or palpitations after transfer 
to the floor. On review of systems, she denies any prior history 
of stroke, TIA,  black stools or red stools. She denies recent 
fevers, chills or rigors. She denies  calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
palpitations, syncope or presyncope.  
.
 
Past Medical History:
1. CARDIAC RISK FACTORS: (-) Diabetes, (-) Dyslipidemia, (+) 
Hypertension  
2. CARDIAC HISTORY:  
-CABG: None
-PERCUTANEOUS CORONARY INTERVENTIONS: None 
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
- COPD
- Peripheral neuropathy
- Hypertension
- Lymphocytic colitis
- Depression
- Duodenal ulcer
- Tobacco use
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
VS: BP= 140/70 HR= 80 RR= 18 O2 sat= 95% on room air  
GENERAL: NAD. Oriented x3. Mood, affect are appropriate.  
HEENT: PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa.  
NECK: supple w/o JVD. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, nl S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTA b/l no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, nontender, nondistended, + BS. 
EXTREMITIES: no peripheral edema.   
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
 
Pertinent Results:
LABS:
.
___ 07:15PM   GLUCOSE-90 UREA N-12 CREAT-0.9 SODIUM-134 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-23 ANION GAP-16
___ 07:15PM   CK(CPK)-41
___ 07:15PM   cTropnT-<0.01
___ 07:15PM   CK-MB-3
___ 07:15PM   CALCIUM-7.3* PHOSPHATE-2.8 MAGNESIUM-1.5* 
CHOLEST-157
___ 07:15PM   TRIGLYCER-75 HDL CHOL-85 CHOL/HDL-1.8 
LDL(CALC)-57
___ 01:30PM URINE  HOURS-RANDOM
___ 01:30PM URINE  GR HOLD-HOLD
___ 01:30PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-SM 
___ 01:30PM URINE  RBC-<1 WBC-13* BACTERIA-MANY YEAST-NONE 
EPI-3
___ 11:49AM   LACTATE-1.6
___ 11:35AM   GLUCOSE-98 UREA N-14 CREAT-1.0 SODIUM-134 
POTASSIUM-3.6 CHLORIDE-93* TOTAL CO2-27 ANION GAP-18
___ 11:35AM   estGFR-Using this
___ 11:35AM   CK(CPK)-41
___ 11:35AM   CK-MB-2 cTropnT-<0.01
___ 11:35AM   CALCIUM-8.3* PHOSPHATE-3.0 MAGNESIUM-1.0*
___ 11:35AM   %HbA1c-5.4 eAG-108
___ 11:35AM   WBC-6.8 RBC-3.37* HGB-12.1 HCT-34.0* MCV-101* 
MCH-35.9* MCHC-35.5* RDW-14.1
___ 11:35AM   NEUTS-73.9* LYMPHS-17.8* MONOS-4.3 EOS-3.4 
BASOS-0.7
___ 11:35AM   PLT COUNT-282
___ 11:35AM   ___ PTT-22.6 ___
.
IMAGING:

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ year old female with a past medical 
history significant for hypertension and peripheral neuropathy, 
who presents with increasing diarrhea. Became tachycardic and 
hypotensive in the emergency department. She was found to have 
ST depressions in the precordial leads on EKG. 
.  
# CORONARIES: Ms. ___ had no complaints of chest pain or 
shortness of breath during her hostpialization. Her initial EKG 
demonstrated diffuse T-wave inversions and mild ST depression (~ 
0.___epression in the precordial leads). Although her 
initial troponins in the ED were < .01, her EKG changes were 
concerning for an acute coronary syndrome. Because of her strong 
risk factors (smoking history, hypertension) for ACS, she was 
started on a baby aspirin. She was admitted overnight to r/o MI. 
On hospital day 2, her serial troponins remained negative. Her 
lipid panel and HgbA1c were as follows: Chol 157 ___ 75 HDL 85 
LDL 57. She was not started on a statin during her 
hospitalization. Because the patient had consumed caffeine on 
the morning of discharged, we decided to complete a 
pharmacologic stress test as an outpatient. We recommended 
follow-up with Dr. ___ as an outpatient, if her stress test 
returned back positive. 
.  
# Tacyhcardia: In the ED, she had several episodes of SVT and 
had a short run of V Tach. She received 2 L of normal saline in 
the ED. She converted spontaneously into normal sinus rhythm. 
She had one episode of atrial tachycardia on the inpatient 
floor. Her tachycardia was mostly likely related to volume 
depletion after weeks of diarrhea. During her hospitalization, 
we held her dose of lasix and recommend 
.  
# Diarrhea: H/x of lymphocytic colitis. Stools were nonbloody. 
She had no fevers or leukocytosis since admission. Lactate was 
1.6. her diarrhea resolved overnight. She had been started on 
entacort 3mg tid.  C. diff and stool studies were unable to be 
completed since the patient's diarrhea resolved overnight. 
.  
# Urinary Tract infection: U/A in the ED revealed 13 WBCs, mod 
leukocytes, and many bacteria. She received 1 dose of 
ciprofloxacin 400mg IV in the ED. She was continued on 
ciprofloxacin 400mg PO bid. The patient did not complain of 
dysuria on admission, but the plan was to treat with a three day 
course of antibiotics. 
. 
# Hypertension: SBP were in ___ in the ED. Received 2L of NS. 
Her SBP remained in the low 100s. She did receive a dose of 
metoprolol on the day of admission. We restarted her lisinopril 
20mg in the morning and we continued to hold her dose of lasix. 
We recommended holding the lasix until her follow-up appointment 
with Dr. ___.  
.
# Peripheral neuropathy: Has a history of bilateral leg numbness 
and paresthesias from the feet to the knees. She was continued 
on her home dose of cymbalta.
.
# Tobacco use: Received a nicotine patch while she was an 
inpatient. 
.
# Anemia: Hct 34.0 in ED. Baseline Hct ___. MCV is 102. ? 
whether anemia is related to vitamin deficiency (folate or B12) 
or alcohol use or chronic blood loss. 
We checked B12 and folate levels, but these lab values were 
pending on the day of discharge. These studies should be 
followed up by her primary care physician. 
.
# Depression: stable. She was continued on cymbalta.
.
FEN: regular diet, replete lytes prn 
.  
ACCESS: PIV's  
.  
PROPHYLAXIS:  
-DVT ppx with SQ heparin
-Hold bowel regimen in the setting of recent diarrhea. 
.  
CODE: Full 
 
Medications on Admission:
albuterol  1 inhl q4hrs prn 
budesonide ER 
Dipheoxylate-atropine 2.5mg-.025mg tab (___) qid prn
duloxetine 60mg daily
furosemide 20mg daily
lisinopril 20mg daily
metoprolol ER 50mg bid
 
Discharge Medications:
1. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for shortness of breath.  
3. budesonide 3 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO TID (3 times a day).  
4. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 3 doses: Total antibiotic therepy is 3 days. Please 
finish the total course of antibiotics. You only require 3 doses 
of antibiotics from the day of discharge. .
Disp:*3 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Atrial Tachycardia
Dehydration
Urinary Tract Infection
.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
    It was a pleasure taking care of you during your 
hospitalization. You were admitted after you developed abnormal 
changes on your EKG that were concerning for a myocardial 
infarction (or heart attack). During your hospitalization, we 
checked a series of cardiac biomarkers that remained within 
normal limits. Therefore, we do not think you had a heart 
attack. However, we would like you to complete a cardiac stress 
test as an outpatient. We have placed an order for this test. 
You will need to call to schedule an appointment. If you have a 
positive stress test, you need to schedule an appointment with 
Dr. ___. His office phone number is as follows: ___.
.
In addition, during your hospitalization, we also found that you 
have an abnormal heart rhythm, but we do not think this is 
life-threatening. We recommend continuing your home medications 
as prescribed and we encourage you to refrain from smoking. 
.
You were also treated for a urinary tract infection during your 
hospitalization. We started oral antibiotics on the day of 
admission. You will require a 3 day course of antibiotics. Your 
last dose of ciprofloxacin is ___. 
.
Please resume your home medications. Please hold your home dose 
of Lasix 20mg until you are evaluated by your primary care 
physician, ___. Please follow-up with your primary care 
physician ___ 1 weeks after discharge. Please see appointment 
details below. 
 
Followup Instructions:
___